US06919356B2
Part B: Preparation of 1-[2-(4-fluorophenyl)-ethyl]-4,4-dimethyl-2,6-dioxopiperidine-3-carbonitrile
A mixture of 2-cyano-N-[2-(4-fluorophenyl)-ethyl]-acetamide (2.0 g, 19.4 mmol), ethyl 3-methylbut-2-enoate with a solution of potassium tert-butoxide in 80° C. After 16 hours, the mixture was cooled to room temperature and acidified with 1.0 N aqueous hydrochloric acid. The mixture was concentrated under vacuum to provide a brown solid. Recrystallization from 95% ethanol provided a tan solid (2.37 g, 85%). 1H NMR (300 MHz, dmso-d6) δ7.24 (m, 2H), 7.11 (t, J=9 Hz, 2H), 4.70 (s, 2H), 3.88 (m, 2H), 2.8-2.6 (m, 4H), 1.16 (s, 3H), 0.98 (s, 3H). Mass spec (ES−) m/z 287.2 (M−H−, 100%).

reactant | 2-cyano-N-[2-(4-fluorophenyl)-ethyl]-acetamide | 19.4 mmol, 2.0 g | C(#N)CC(=O)NCCC1=CC=C(C=C1)F | C11H11FN2O
reactant | ethyl 3-methylbut-2-enoate | CC(=CC(=O)OCC)C | C7H12O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 1.0 N | Cl | ClH
product | 1-[2-(4-fluorophenyl)-ethyl]-4,4-dimethyl-2,6-dioxopiperidine-3-carbonitrile | 2.37 g, 85% | FC1=CC=C(C=C1)CCN1C(C(C(CC1=O)(C)C)C#N)=O | C16H17FN2O2
